US06559173B1
3-[(4-Bromo-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one
The named compound is prepared by substituting 4-bromo-1H-pyrazol-3-ylamine for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one (0.100 gms.) is reacted with 0.2141 gms. of 4-bromo-1H-pyrazol-3-ylamine by refluxing in tetrahydrofuran (2.5 mL).

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | 0.100 gms | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 4-bromo-1H-pyrazol-3-ylamine | BrC=1C(=NNC1)N | C3H4BrN3
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 3-[(4-Bromo-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one | BrC=1C(=NNC1)NC=C1C(NC2=CC=CC=C12)=O | C12H9BrN4O
